US09422281B2
Triphosgene (0.057 g, 0.192 mmol) was added to a solution of oxetan-3-ol (0.034 mL, 0.576 mmol) and N,N-diisopropylethylamine (0.101 mL, 0.576 mmol) in 1,2-dichloroethane (2.0 mL). The mixture stirred at rt for 30 min. (S)-1-(2-methyl-6-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.030 g, 0.096 mmol) and N,N-diisopropylethylamine (0.101 mL, 0.576 mmol) were added and the mixture stirred at 50° C. for 3 h. The reaction mixture was concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane then 5-10% methanol-dichloromethane) to afford (S)-oxetan-3-yl 4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.025 g, 63%) as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.95 (d, J=6.74 Hz, 3 H), 2.10 (s, 3 H), 3.49 (br s, 1 H), 3.98 (br dd, J=12.90, 5.86 Hz, 1 H), 4.51 (ddd, J=10.55, 7.18, 5.42 Hz, 2 H), 4.66-4.79 (m, 2 H), 4.79-4.94 (m, 5 H), 5.30-5.45 (m, 1 H), 5.53 (dq, J=14.07, 7.23 Hz, 1 H), 7.30 (dd, J=8.35, 1.91 Hz, 1 H), 7.41 (br s, 1 H), 7.86-8.00 (m, 2 H), 8.25 (s, 1 H). MS (ESI, pos. ion) m/z 413.

reactant | Triphosgene | 0.192 mmol, 0.057 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | oxetan-3-ol | 0.576 mmol, 0.034 mL | O1CC(C1)O | C3H6O2
reactant | N,N-diisopropylethylamine | 0.576 mmol, 0.101 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-(2-methyl-6-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.096 mmol, 0.030 g | C[C@@H]1N(C2=CC=C(C=C2NC1)C=1C=NN(C1)C1COC1)C(C)=O | C17H20N4O2
reactant | N,N-diisopropylethylamine | 0.576 mmol, 0.101 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 2.0 mL | ClCCCl | C2H4Cl2
product | (S)-oxetan-3-yl 4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.025 g, 63% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1COC1)C(=O)OC1COC1)C | C21H24N4O5
